US06555557B1
Preparation of 2-(3-bromophenylthio)-3-pyridinol
2-Bromo3-pyridinol (44 g, 250 mmol) and 3-bromothiophenol (30 g, 160 mmol) are dissolved in tetrahydrofuran (hereinafter, occasionally referred to as THF) (100 ml) and dimethylformaldehyde (hereinafter, referred to as DMF) (100 ml), and the mixture is heated under reflux for 5 hours. After being allowed to cool, ethyl acetate (1000 ml) is added to the mixture, and the mixture is washed with 5% aqueous sodium hydroxide solution (50 ml×2) and a saturated brine (100 ml×2), and dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate to give the title compound (35 g) as colorless crystals, m.p. 125-126° C.

reactant | 2-Bromo3-pyridinol | 250 mmol, 44 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | 3-bromothiophenol | 160 mmol, 30 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | dimethylformaldehyde | CC(=O)C | C3H6O
reactant | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3-bromophenylthio)-3-pyridinol | 35 g | BrC=1C=C(C=CC1)SC1=NC=CC=C1O | C11H8BrNOS
